US07348449B2
Synthesis of 6-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)nicotinic acid
In a manner similar to that of Example 7d, by reacting 0.9 g (1.8 mmol) of ethyl 6-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)nicotinate with 0.36 g (9 mmol) of sodium hydroxide, a yellow solid is obtained (0.60 g; yield=71%; m.p.=171° C.).

reactant | ethyl 6-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)nicotinate | 1.8 mmol, 0.9 g | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC1=NC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)C)C | C29H27NO2Se
reactant | sodium hydroxide | 9 mmol, 0.36 g | [OH-].[Na+]
product | 6-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)nicotinic acid | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC1=NC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C)C | C27H23NO2Se
